US07205296B2
Analogous to the sulfonylurea urea coupling method described in Ex 5, 3-(6-aminopyridin-3-yl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one was coupled with 3-methoxy-5-methylthiophen-2-ylsulfonylcarbamate to yield 1-(5-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)pyridin-2-yl)-3-(5-methoxythiophen-2-ylsulfonyl)urea. RP-HPLC: 2.7 min; ES-MS (M+H)+=508; 1H-NMR (DMSO-d6) δ (ppm): 2.8 (s, 3), 3.9 (s, 3), 5.6 (s, 2), 6.2 (d, 1), 6.5 (d, 1), 6.7 (d, 1), 7.4 (d, 1), 7.6 (d, 1), 7.8 (d, 1), 8.2 (s, 1), 9.4 (bs, 1).

reactant | sulfonylurea urea | NC(=O)N.S(=O)(=O)=NC(=O)N
reactant | 3-(6-aminopyridin-3-yl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | NC1=CC=C(C=N1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C14H13FN4O2
reactant | 3-methoxy-5-methylthiophen-2-ylsulfonylcarbamate | COC1=C(SC(=C1)C)S(=O)(=O)NC([O-])=O
product | 1-(5-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)pyridin-2-yl)-3-(5-methoxythiophen-2-ylsulfonyl)urea | FC=1C(=CC2=C(C(N(CO2)C=2C=CC(=NC2)NC(=O)NS(=O)(=O)C=2SC(=CC2)OC)=O)C1)NC | C20H18FN5O6S2
